US05051413
By reaction of isocyanoacetic acid methyl ester with 2-phenylacrolein in a manner analogous to that described in Example 1, and after purification bycolumn chromatography (silica gel; dichloromethane/methanol 97.5:2.5), 5-(1-phenyl-vinyl)-2-oxazoline-4-carboxylic acid methyl ester is obtained in the form of a pale yellow oil. 1H-NMR (CDCl3) 3.80 (s, 3H, CH3); 4.45 (dd, 1H, C(4)--H); 5.76 (d, 1H, C(5)--H).

reactant | isocyanoacetic acid methyl ester | COC(C[N+]#[C-])=O | C4H5NO2
reactant | 2-phenylacrolein | C1(=CC=CC=C1)C(C=O)=C | C9H8O
product | 5-(1-phenyl-vinyl)-2-oxazoline-4-carboxylic acid methyl ester | COC(=O)C1N=COC1C(=C)C1=CC=CC=C1 | C13H13NO3
